US09359338B2
Step 2: Synthesis of N-[4-(4-amino-2-fluoro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide
Dissolve N-[4-(2-fluoro-4-nitro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide (160 mg, 0.48 mmol) in DCM (30 mL), add Pd/C (10%, 55 mg), flush with H2. Stir the reaction at room temperature under H2 atmosphere for 2 hrs. Filter the reaction mixture; concentrate the filtrate under reduced pressure to give the crude product (100 mg) which is used without further purification. MS: (M+1): 302.2.

reactant | N-[4-(2-fluoro-4-nitro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide | 0.48 mmol, 160 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)C2(CC2)C)C=CC(=C1)[N+](=O)[O-] | C16H14FN3O4
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 55 mg | [Pd] | Pd
product | N-[4-(4-amino-2-fluoro-phenoxy)-2-pyridyl]-1-methyl-cyclopropanecarboxamide | 100 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)C2(CC2)C)C=C1)F | C16H16FN3O2
